US06586617B1
Synthesis of N-methoxy-4′-nitro-2′,3,4-trichlorobenzenesulfonanilide (Compound No. 527)
To a suspension of sodium hydride (60%, 0.09 g (2.25 mmol)) in 3.0 ml of DMF, 3,4-dichloro-N-methoxybenzenesulfonamide (0.56 g (2.19 mmol)) was added with stirring under cooling with ice. To the resulting mixture, after 15 minutes' stirring under cooling with ice, 3-chloro-4-fluoronitrobenzene (0.35 ml (1.99 mmol)) was added and the mixture was stirred for one hour under cooling with ice and 3 hours at room temperature. Then, water was added to the reaction mixture and the resulting mixture was extracted with diethyl ether. The extract was washed twice with water and the ether layer was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give 0.56 g (68%) of the title compound as pale yellow-white crystals.

reactant | sodium hydride | 2.25 mmol, 0.09 g | [H-].[Na+]
reactant | 3,4-dichloro-N-methoxybenzenesulfonamide | 2.19 mmol, 0.56 g | ClC=1C=C(C=CC1Cl)S(=O)(=O)NOC | C7H7Cl2NO3S
reactant | 3-chloro-4-fluoronitrobenzene | 1.99 mmol, 0.35 ml | ClC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3ClFNO2
reactant | water | O | H2O
solvent | DMF | 3.0 ml | CN(C)C=O | C3H7NO
product | N-methoxy-4′-nitro-2′,3,4-trichlorobenzenesulfonanilide | 0.56 g, 68% | CON(C1=C(C=C(C=C1)[N+](=O)[O-])Cl)S(=O)(=O)C1=CC(=C(C=C1)Cl)Cl | C13H9Cl3N2O5S
